### PR TITLE
[Merged by Bors] - feat(Topology): subspace of a perfectly normal space is perfectly normal

### PR DESCRIPTION
**Pull request by CoolRmal**
The mains theorems proved in this PR are
- A topological space is perfectly normal iff every closed set is the zero set of a continuous
function taking values in the unit interval.
- Every subspace of a perfectly normal space is perfectly normal.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CoolRmal** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/e8e7e40d632f9f4ef6749599e65c9c74da00393e?reference=5fc0241932dd6d465bc5549308cc39011772293a) for e8e7e40d632f9f4ef6749599e65c9c74da00393e against 5fc0241932dd6d465bc5549308cc39011772293a are in. There are significant results. @CoolRmal

- 🟥 `main` exited with code **1**

No significant changes detected.

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 1]
```diff
@@ -574,6 +574,12 @@ theorem SeparatedNhds.of_finset_finset [T2Space X] (s t : Finset X) (h : Disjoin
     SeparatedNhds (s : Set X) t :=
   .of_isCompact_isCompact s.finite_toSet.isCompact t.finite_toSet.isCompact <| mod_cast h
 
+theorem SeparatedNhds.of_finite [T2Space X] {s t : Set X} (hs : s.Finite) (ht : t.Finite)
+    (h : Disjoint s t) :
+    SeparatedNhds s t := by
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/Hausdorff.lean]:
```suggestion
    (h : Disjoint s t) : SeparatedNhds s t := by
```

File: Mathlib/Topology/Separation/PerfectlyNormal.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+
+open Set Topology
+
+variable {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
+
+/-- A topological space is perfectly normal iff every closed set is the zero set of a continuous
+function taking values in the unit interval. -/
+theorem perfectlyNormalSpace_iff_forall_isClosed_preimage_zero :
+    PerfectlyNormalSpace X ↔ ∀ s, IsClosed s → ∃ f : C(X, ℝ), s = f ⁻¹' {0} ∧
+      range f ⊆ Icc 0 1 where
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/PerfectlyNormal.lean]: In Urysohn's lemma `range f ⊆ Icc 0 1` is phrased as `∀ x, f x ∈ Icc (0 : ℝ) 1`. It seems like this could make things a tiny bit nicer in the proof here as well. Is there a reason you prefer this spelling?

File: Mathlib/Topology/Separation/PerfectlyNormal.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+      simp [abs_of_nonneg (hfr n x).1, (hfr n x).2]
+    have hsx (x : X) : Summable fun n => f n x * (1 / 2 / 2 ^ n) :=
+      (summable_geometric_two' 1).of_norm_bounded fun n => hsb x n
+    -- consider the infinite sum of `f n x * (1 / 2 / 2 ^ n)`, which is uniformly convergent and
+    -- thus continuous because it is dominated by a geometric series
+    let h : C(X, ℝ) := {
+      toFun x := ∑' n, f n x * (1 / 2 / 2 ^ n)
+      continuous_toFun :=
+        continuous_tsum (fun n => by fun_prop) (summable_geometric_two' 1) fun n x => hsb x n
+      }
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/PerfectlyNormal.lean]: I think per the style guide you are not supposed to orphan paranthese though I am not sure whether this applies to constructors as well. There would be a few more instances of this in your code.

File: Mathlib/Topology/Separation/PerfectlyNormal.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+      -- pick `f` such that `s = f ⁻¹' {0} = ⋂ n, f ⁻¹' {(-1, 1 / (n + 1))}`
+      obtain ⟨f, hf, hfr⟩ := h s hs
+      refine isGδ_iff_eq_iInter_nat.2 ⟨fun n => f ⁻¹' (Ioo (-1 : ℝ) (1 / (n + 1))), fun n => ?_, ?_⟩
+      · exact f.continuous.isOpen_preimage _ isOpen_Ioo
+      · simp only [hf, ← preimage_iInter,
+          ← preimage_range_inter (s := ⋂ (n : ℕ), Ioo (-1 : ℝ) (1 / (n + 1))), inter_iInter]
+        congr
+        ext x
+        refine ⟨fun h => mem_iInter_of_mem fun n => ?_, fun h => ?_⟩
+        · refine ⟨?_, ?_, by simp_all; grind⟩ <;> aesop
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/PerfectlyNormal.lean]:
```suggestion
        rw [eq_comm, eq_singleton_iff_unique_mem]
        refine ⟨mem_iInter_of_mem fun n => ?_, fun x h => ?_⟩
        · exact ⟨(hf ▸ hse : (f ⁻¹' {0}).Nonempty), by norm_num, by positivity⟩
```
This isn't shorter in any way but I think this improves the readability of `refine ⟨?_, ?_, by simp_all; grind⟩ <;> aesop`.

File: Mathlib/Topology/Separation/PerfectlyNormal.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+    [PerfectlyNormalSpace Y] : PerfectlyNormalSpace X := by
+  rw [perfectlyNormalSpace_iff_forall_isClosed_preimage_zero]
+  intro t ht
+  obtain ⟨c, hc⟩ : ∃ c, IsClosed c ∧ e '' t = c ∩ range e := he.image_eq_isClosed_inter_range ht
+  obtain ⟨f, rfl, hf⟩ :=
+    perfectlyNormalSpace_iff_forall_isClosed_preimage_zero.1 inferInstance c hc.1
+  refine ⟨⟨f ∘ e, f.continuous.comp he.continuous⟩, ?_, (range_comp_subset_range e f).trans hf⟩
+  ext x
+  refine ⟨fun hx => ?_, fun hx => ?_⟩
+  · have hx' : e x ∈ e '' t := by grind
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/PerfectlyNormal.lean]:
```suggestion
  · have hx' : e x ∈ e '' t := mem_image_of_mem e hx
```
This is very nit-picky but I think using `grind` for simple things like these obscures the proof a bit.

**Review by scholzhannah — COMMENTED** [review]
Thank you for you PR! I have a few small comments.

**Comment by scholzhannah** [comment]
Since you have created a file "PerfectlyNormal", I would now expect to find the definition of a perfectly normal space there. Could you maybe move that definition to your new file?

**Comment by CoolRmal** [comment]
@scholzhannah I created a new file for two reasons. I want to avoid large import and also I can't import Urysohn's lemmas in Mathlib.Topology.Separation.Delta according to the warning of CI
Screenshot 2026-04-26 at 3 36 45 PM

If I move the definition of PerfectlyNormal from Mathlib.Topology.Separation.Delta to the new file I created, then I need to import the new file in Mathlib.Topology.Separation.Delta, which simultaneously also import Urysohn's lemmas and we are back to the original problem.

After I did some investigation I think the main cause of the error above is that Mathlib.Topology.GDelta.MetrizableSpace is imported in Mathlib.MeasureTheory.Constructions.BorelSpace.Basic solely for the purpose of proving this single lemma:  [measurableSet_of_continuousAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.html#measurableSet_of_continuousAt) (everything else in Mathlib.MeasureTheory.Constructions.BorelSpace.Basic still goes well after I delete the import of Mathlib.Topology.GDelta.MetrizableSpace). Also, it seems like that  Mathlib.Analysis.BoxIntegral.Integrability is the only single file that uses `measurableSet_of_continuousAt`. So I think the alternative solution is to move `measurableSet_of_continuousAt` to another file, and then I can import Urysohn's lemmas in Mathlib.Topology.Separation.Delta. There's no need for me to create a new file named "PerfectlyNormal" in this case.

I still think creating a new file without importing the definition is the best solution here as I really don't know where I should move `measurableSet_of_continuousAt` into. Also I think it is pretty common in Mathlib that definitions and properties related to it are not in the same file (e.g. Mathlib.Topology.Compactness.Compact contains a low of theorems about compactness, but `IsCompact` is defined in Mathlib.Topology.Defs.Filter).

File: Mathlib/Topology/Separation/PerfectlyNormal.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Topology/Separation/PerfectlyNormal.lean]: I thought it is more concise? I don't really have a preference here.

**Comment by CoolRmal** [comment]
-awaiting-author

**Comment by CoolRmal** [comment]
-CI

**Comment by scholzhannah** [comment]
The issue with the files is beyond my expertise. I think it is fine to leave for now. I also think it might be worth it to post your explanation above on Zulip to see what people think. Without knowing anything about this, I would hope that this could be nicer.

File: Mathlib/Topology/Separation/PerfectlyNormal.lean (hunk 2 above)
Comment (scholzhannah) [reply Mathlib/Topology/Separation/PerfectlyNormal.lean]: I think you should go for the version that is easiest to use later on. I don't know if there is a huge difference here so feel free to do what you want.

Comment (j-loreaux) [reply Mathlib/Topology/Separation/PerfectlyNormal.lean]: Let's prefer the `∀` version because then you don't have to do `rintro - ⟨x, rfl⟩` and instead just `intro x` to get the same goal.

**Comment by j-loreaux** [comment]
> Since you have created a file "PerfectlyNormal", I would now expect to find the definition of a perfectly normal space there. Could you maybe move that definition to your new file?

No, I don't agree here. It's nice to have definitions in files with a small number of imports, and then files containing nontrivial theorems about them can have more imports. If a user is searching for the definition of `PerfectlyNormal`, there are better ways than finding the file with that name. And even if they did open this new file, they could click on `PerfectlyNormal` to be taken to the definition.

**Comment by j-loreaux** [comment]
@CoolRmal the cache for this seems to be broken, can you please fix it by pushing another commit?

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/Topology/Separation/PerfectlyNormal.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+        · exact f.continuous.isOpen_preimage _ isOpen_Ioo
+        · simp only [hf, ← preimage_iInter,
+            ← preimage_range_inter (s := ⋂ (n : ℕ), Ioo (-1 : ℝ) (1 / (n + 1))), inter_iInter]
+          congr
+          rw [eq_comm, eq_singleton_iff_unique_mem]
+          refine ⟨mem_iInter_of_mem fun n => ?_, fun x h => ?_⟩
+          · exact ⟨(hf ▸ hse : (f ⁻¹' {0}).Nonempty), by norm_num, by positivity⟩
+          · apply le_antisymm
+            · simp only [mem_iInter, mem_inter_iff, mem_Ioo] at h
+              exact ge_of_tendsto' tendsto_one_div_add_atTop_nhds_zero_nat (fun n => (h n).2.2.le)
```
Comment (j-loreaux) [inline Mathlib/Topology/Separation/PerfectlyNormal.lean]: There's no real reason to use `Ioo (-1) ...` and instead we can just use `Iio ...`. It's a minor change, but I think it makes the proof read better from a mathematical perspective.
```suggestion
        -- pick `f` such that `s = f ⁻¹' {0} = ⋂ n, f ⁻¹' (Iio (1 / (n + 1)))`
        obtain ⟨f, hf, hfr⟩ := h s hs
        refine isGδ_iff_eq_iInter_nat.2 ⟨fun n => f ⁻¹' (Iio (1 / (n + 1))),
          fun n => ?_, ?_⟩
        · exact f.continuous.isOpen_preimage _ isOpen_Iio
        · simp only [hf, ← preimage_iInter,
            ← preimage_range_inter (s := ⋂ (n : ℕ), Iio (1 / (n + 1) : ℝ)), inter_iInter]
          congr
          rw [eq_comm, eq_singleton_iff_unique_mem]
          refine ⟨mem_iInter_of_mem fun n => ?_, fun x h => ?_⟩
          · exact ⟨(hf ▸ hse : (f ⁻¹' {0}).Nonempty), show 0 < (1 / (n + 1) : ℝ) by positivity⟩
          · apply le_antisymm
            · simp only [mem_iInter, mem_inter_iff, mem_Iio] at h
              exact ge_of_tendsto' tendsto_one_div_add_atTop_nhds_zero_nat (fun n => (h n).2.le)
```

File: Mathlib/Topology/Separation/PerfectlyNormal.lean [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+  obtain ⟨c, hc⟩ : ∃ c, IsClosed c ∧ e '' t = c ∩ range e := he.image_eq_isClosed_inter_range ht
+  obtain ⟨f, rfl, hf⟩ :=
+    perfectlyNormalSpace_iff_forall_isClosed_preimage_zero.1 inferInstance c hc.1
+  refine ⟨⟨f ∘ e, f.continuous.comp he.continuous⟩, ?_, fun x => hf (e x)⟩
+  ext x
+  refine ⟨fun hx => ?_, fun hx => ?_⟩
+  · have hx' : e x ∈ e '' t := mem_image_of_mem e hx
+    simp_all
+  · have hx' : e x ∈ e '' t := by simp_all
+    exact he.injective.mem_set_image.1 hx'
```
Comment (j-loreaux) [inline Mathlib/Topology/Separation/PerfectlyNormal.lean]:
```suggestion
  simpa [Set.ext_iff, he.injective.preimage_image] using congr(e ⁻¹' $(hc.2))
```

**Review by j-loreaux — COMMENTED** [review]
Looks pretty good overall, thanks!

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 8]
```diff
@@ -574,6 +574,11 @@ theorem SeparatedNhds.of_finset_finset [T2Space X] (s t : Finset X) (h : Disjoin
     SeparatedNhds (s : Set X) t :=
   .of_isCompact_isCompact s.finite_toSet.isCompact t.finite_toSet.isCompact <| mod_cast h
 
+theorem SeparatedNhds.of_finite [T2Space X] {s t : Set X} (hs : s.Finite) (ht : t.Finite)
+    (h : Disjoint s t) : SeparatedNhds s t := by
+  rw [← hs.coe_toFinset, ← ht.coe_toFinset]
+  exact SeparatedNhds.of_finset_finset _ _ (Finite.disjoint_toFinset.2 h)
```
Comment (j-loreaux) [inline Mathlib/Topology/Separation/Hausdorff.lean:580]: Untested
```suggestion
    (h : Disjoint s t) : SeparatedNhds s t :=
  SeparatedNhds.of_finset_finset hs.toFinset ht.toFinset (Finite.disjoint_toFinset.1 h)
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Separation/Hausdorff.lean (hunk 8 above)
Comment (CoolRmal) [reply Mathlib/Topology/Separation/Hausdorff.lean:580]: This does not work. I'll use my original code.
